US06127354
To a solution of N'-benzylidenehydrazinecarboxylic acid tert-butyl ester (2.7 g, 12.3 mmol) in tetrahydrofuran (100 ml) was added 10% palladium on carbon (0.3 g) and the mixture was hydrogenated with 280 ml of hydrogen for 40 min at atmospheric pressure. The mixture was filtered through a plug of celite and the filtrate was concentrated in vacuo to give 2.63 g of N'-benzylhydrazinecarboxylic acid tert-butyl ester.

reactant | N'-benzylidenehydrazinecarboxylic acid tert-butyl ester | 12.3 mmol, 2.7 g | C(C)(C)(C)OC(=O)NN=CC1=CC=CC=C1 | C12H16N2O2
reactant | hydrogen | 280 ml | [H][H] | H2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 0.3 g | [Pd] | Pd
product | N'-benzylhydrazinecarboxylic acid tert-butyl ester | 2.63 g | C(C)(C)(C)OC(=O)NNCC1=CC=CC=C1 | C12H18N2O2
